2140-12-05 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hypotensive with MAPS in 50s
   - IJ placed, levo started with goal MAP > 65
   - INR increased, warfarin dose reduced 2.5 -> 1
   - start azithro tomorrow
   - ECHO for tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2140-12-4**] 09:30 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-5**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 82 (73 - 83) bpm
   BP: 103/55(68) {81/41(52) - 106/64(74)} mmHg
   RR: 23 (19 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (7 - 14)mmHg
   Total In:
                                                                  5,100 mL
                                                                  2,174 mL
   PO:
   TF:
   IVF:
                                                                  2,600 mL
                                                                  2,174 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,100 mL
                                                                  1,574 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Alert, awake, no acute distress
   RRR, bibasilar rales
   Abd soft, nt
   2+ pulses,  no edema
   Labs / Radiology
   187 K/uL
   9.8 g/dL
   140 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.3 mEq/L
   28 mg/dL
   106 mEq/L
   136 mEq/L
   29.3 %
   12.8 K/uL
        [image002.jpg]
                            [**2140-12-4**]  11:35 PM
                            [**2140-12-5**]  05:55 AM
   WBC
   14.2
   12.8
   Hct
   29.0
   29.3
   Plt
   173
   187
   Cr
   1.7
   Glucose
   140
   Other labs: PT / PTT / INR:27.8/43.2/2.7, ALT / AST:13/24, Alk Phos / T
   Bili:38/1.1, Albumin:3.0 g/dL, Ca++:7.5 mg/dL, Mg++:1.2 mg/dL, PO4:3.9
   mg/dL
   Imaging: CXR: inflitrate, wide mediastinum, unchanged
   Microbiology: Blood and Urine Cx pending
   Sputum Cx  to be sent
   Assessment and Plan
   69 yo M with h/o HTN, DM, Afib and recently diagnosed mediastinal mass
   causing severe dysphagia pending pathologic diagnosis, presents with
   fevers, cough and radiologic evidence of PNA.
   #.  Sepsis: CXR concerning for PNA. Given recent frequent hospital
   visits as well as instrumentalization, would consider HAP as well as
   aspiration post endobronchial biopsy. Received Vancomycin and
   Levofloxacin in ED as well as Tamiflu.  Abx changed to vanc/zosyn.
   Given mass, also concern for post-obstructive pneumonia.
   -  f/u BCx
   - start azithro today for atypicals, ceftriaxone.  D/c zosyn.
   - continue rule out flu, meanwhile droplet precautions
   - page ID for zosyn and tamiflu approval
   #.  Hypotension: Although concerning for sepsis in the setting of known
   infection. However given normal lactate and poor PO intake and fevers,
   suspect severe hypovolemia. Baseline BP is 100s-120s on Atenolol 12.5
   and Lisinopril 5.   Central line placed and pressors started.  Received
   6L IVF total.
   - continee aggressive IVF as tolerated by oxygenation
   - holding home BP medications as well as narcotics, benzos
   - concern for mass obstruction preload or outflow given positional
   nature of BP?
   - ECHO today
   - Consider repeat CT chest for further eval of mass depending on ECHO
   results
   #.  Acute Renal Failure: Presumably prerenal in etiology.  UA
   negative.  FENa 0.08%
   -  U cx pending
   -  Dose medications renally (allopurinol)
   -  Avoid nephrotoxins including ACEi
   #.  Dysphagia: In process of outpt workup, pending pathology of mass
   biopsy. Meanwhile concerning for limiting PO intake and possibly
   causing increased risk of aspiration.
   -  Nursing swallow eval followed by formal speech and swallow if
   necessary
   -  Aspiration precautions when diet restarted
   -  Nutrition consult for sufficient intake given limited options
   -  Definitive treatment to be discussed with IP but likely unable to
   determine until pathology is available.
   #.  Afib: Anticoagulated and rhythm contolled with Propafenone.
   Reduced warfarin dose given incrase in INR and starting azithro
   - Hold warfarin given probable need for further procedures.
   - Monitor INR daily
   #.  Diabetes:
   - ISS, holding home Metformin
   #.  Gout:
   - Continue Allopurinol at renally adjusted dose
   #. FEN: NPO until respiratory status is stable while volume
   resuscitating, lytes prn, aggressive IVF
   #. PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen
   -Pain management with tylenol
   #. ACCESS: R IJ
   #. CODE STATUS: Confirmed full
   #. EMERGENCY CONTACT: [**Name (NI) 10959**] [**Name (NI) 11003**], sister, HCP [**Telephone/Fax (1) 11004**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-12-4**] 06:00 PM
   Multi Lumen - [**2140-12-5**] 01:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-12-07 07:18:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath and hemodynamic instability
   24 Hour Events:
   - Heme onc would prefer to have another biopsy as his first biopsy
   final read says "Although the morphologic and immunophenotypic findings
   are suspicious for small cell lung carcinoma, the radiologic and
   clinical presentation are somewhat unusual. Further workup with
   additional tissue biopsies are recommended."
   - Interventional pulmonology will do a bronchoscopic biopsy tomorrow.
   - Rad onc recs: after tissue obtained, could get radiation as soon as
   Thursday.
   - CT not done as patient uncomfortable lying flat and requested it be
   put off until tomorrow.
   - In afib with RVR at 4pm, considering Amiodarone
   - heme/onc recs: need tissue.
   - [**Last Name (un) 402**] stim adequate
   - 10am CXR looks fluid overload - put out 1L of urine to 40mg IV lasix
   at 2pm.
   - anticoagulation (for afib) dependent on path results
   - PM coags: INR 2.3. Ordered for two units of FFP for early AM prior to
   going for bronchoscopy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2140-12-4**] 09:30 PM
   Vancomycin - [**2140-12-6**] 08:18 AM
   Ceftriaxone - [**2140-12-6**] 09:33 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2140-12-6**] 12:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-7**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 100 (79 - 124) bpm
   BP: 127/67(80) {96/42(57) - 129/73(85)} mmHg
   RR: 25 (22 - 36) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 10 (3 - 21)mmHg
   Total In:
                                                                  1,137 mL
                                                                    737 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                    777 mL
                                                                    147 mL
   Blood products:
                                                                    590 mL
   Total out:
                                                                  2,575 mL
                                                                    300 mL
   Urine:
                                                                  2,575 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,438 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   Gen: Elderly male in mild respiratory distress when moving or coughing.
   HEENT: Sclerae anicteric, oropharynx clear, no visible JVD.
   CV: Irregularly irregular, no m/r/g.
   Resp: Poor air movement with occasional inspiratory wheezes.
   Abd: Soft, NTND
   Ext: 2+ radial, DP and PT pulses. No edema, no calf pain.
   Labs / Radiology
   275 K/uL
   10.9 g/dL
   156 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.9 mEq/L
   21 mg/dL
   105 mEq/L
   136 mEq/L
   32.6 %
   12.6 K/uL
        [image002.jpg]
                            [**2140-12-4**]  11:35 PM
                            [**2140-12-5**]  05:55 AM
                            [**2140-12-5**]  06:17 PM
                            [**2140-12-6**]  03:41 AM
                            [**2140-12-6**]  05:29 PM
                            [**2140-12-7**]  03:45 AM
   WBC
   14.2
   12.8
   12.2
   12.6
   Hct
   29.0
   29.3
   30.4
   32.6
   Plt
   173
   187
   179
   275
   Cr
   1.7
   1.5
   1.2
   1.3
   1.2
   1.1
   Glucose
   140
   123
   118
   164
   156
   Other labs: PT / PTT / INR:23.2/38.1/2.2, ALT / AST:13/24, Alk Phos / T
   Bili:38/1.1, Albumin:3.0 g/dL, LDH:314 IU/L, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FIBRILLATION (AFIB)
 CANCER (MALIGNANT NEOPLASM), OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   69yoM with HTN, DM2, AFib, and mediastinal mass with Bx concerning for
   small cell lung ca, admitted for dyphagia, fevers, cough, and PNA.
   1. Mediastinal mass--Heme/Onc needs more tissue to proceed with
   directed management, and needs a CT abdomen/pelvis and head for further
   staging.  Can repeat chest CT at the same time to assess for evolution
   and cause of increased shortness of breath when lying flat. After
   biopsy should go to [**Hospital Ward Name **] for XRT and oncology management.
   - IP will be doing a bronchoscopic biopsy.  We are giving Vit K and FFP
   with aim of INR<1.5 for procedure.  If the patient cannot tolerate
   lying flat he may need to be intubated.
   - Per heme-onc, if bronchoscopy again does not provide an adequate
   tissue sample, he will need mediastinoscopy to provide a larger
   biopsy.  We will discuss with thoracic surgery whether this could be
   arranged, if needed, for Friday.
   - F/u with Heme Onc and Rad Onc.
   - CT head/abd/pelvis without contrast for further staging.  If he is
   intubated for bronchoscopy, it would be helpful to have CT done while
   patient is intubated.
   - Tissue is needed before patient can be transferred to [**Hospital Ward Name **].
   - Albuterol prn for SOB, which is in large part due to the mass itself
   2. AFib
 known afib, had been on coumadin prior to admission.
   --Continue Propafenone and Dilt gtt.  He has increasing difficulty with
   PO medications, so we will continue with IV dilt for now.  We may also
   need to find a replacement for the propafenone.
   --For now, we are actively reversing anticoagulation for biopsy.  Can
   reassess need for anticoagulation based on chemotherapy plan.  For now
   just SC heparin.
   3. PNA
Patient now afebrile though coughing continues.  It is unclear
   whether his symptoms are related to his mediastinal mass or a
   pneumonia.  Continues on empiric Ceftriaxone day 3, Vanc day 4, and
   Azithromycin day 3. No positive sputum or BCx
s. WBC
s remain elevated
   at 12 but stable.
   - Continue vanc, ceftriaxone and azithromycin for 5 day course for
   pneumonia requiring hospitalization.
   4. Nutrition--With mass compressing esophagus, is difficult to swallow.
   Had bedside nursing swallow eval which was ok and diet advanced to full
   liquids.  [**Month (only) 51**] require dobhoff placement as he is getting inadequate POs
   and there is risk of esophageal scarring if he does get XRT.  We will
   avoid this for now until we have a more definite plan.
   - For now, liquid diet with supplements.
   5. Acute Renal Failure
 resolved with Cr now 1.1.
   6. Diabetes--ISS, holding home Metformin. BS
s ranging 130-187 through
   past 24hrs.
   --ASA 81mg qday
   7.  Gout--Continue Allopurinol at renally adjusted dose
   FEN: NPO until respiratory status is stable while volume resuscitating,
   lytes prn
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen
   -Pain management with tylenol
   -SC heparin
   ACCESS: R IJ
   CODE STATUS: Confirmed full
   EMERGENCY CONTACT: [**Name (NI) 10959**] [**Name (NI) 11003**], sister, HCP [**Telephone/Fax (1) 11004**]
   [**Name2 (NI) **]OSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2140-12-4**] 06:00 PM
   Multi Lumen - [**2140-12-5**] 01:15 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: patient mobile
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending definitive tissue diagnosis.

2140-12-08 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2140-12-7**] 09:30 AM
    Biopsy of his madiastinl mass.
 OR SENT - At [**2140-12-7**] 07:40 PM
 INVASIVE VENTILATION - START [**2140-12-7**] 11:01 PM
   O/N, intubated sedated, going for mapping and XRT in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-12-6**] 08:18 AM
   Ceftriaxone - [**2140-12-6**] 09:33 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-12-7**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-8**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 105 (89 - 116) bpm
   BP: 96/58(65) {83/46(55) - 136/71(100)} mmHg
   RR: 20 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 6 (0 - 337)mmHg
   Total In:
                                                                  1,383 mL
                                                                    142 mL
   PO:
   TF:
   IVF:
                                                                    488 mL
                                                                    142 mL
   Blood products:
                                                                    895 mL
   Total out:
                                                                  2,190 mL
                                                                    490 mL
   Urine:
                                                                  2,190 mL
                                                                    190 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -807 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 484 (484 - 484) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   Compliance: 44 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/32/80.[**Numeric Identifier 176**]/23/0
   Ve: 11 L/min
   PaO2 / FiO2: 133
   Physical Examination
   GENERAL: intubated, sedated on propofol, but moving all four
   extremities spontaneously and nodding yes and no to questions, this
   morning he was motioning with his right hand that he wanted to write w/
   pen and paper and was mouthing words in response to questions.
   HEENT:  No conjunctival pallor. No scleral icterus. PERRLA/EOMI.
   CARDIAC: Quiet HS. Regular rhythm, normal rate. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**].
   LUNGS: rhonchorous ventilated breath sounds B/L
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   209 K/uL
   9.6 g/dL
   146 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   22 mg/dL
   105 mEq/L
   137 mEq/L
   28.4 %
   7.3 K/uL
        [image002.jpg]
                            [**2140-12-5**]  05:55 AM
                            [**2140-12-5**]  06:17 PM
                            [**2140-12-6**]  03:41 AM
                            [**2140-12-6**]  05:29 PM
                            [**2140-12-7**]  03:45 AM
                            [**2140-12-7**]  03:03 PM
                            [**2140-12-7**]  11:04 PM
                            [**2140-12-8**]  01:16 AM
                            [**2140-12-8**]  03:24 AM
                            [**2140-12-8**]  03:39 AM
   WBC
   12.8
   12.2
   12.6
   9.9
   7.3
   Hct
   29.3
   30.4
   32.6
   29.5
   28.4
   Plt
   187
   179
   275
   238
   209
   Cr
   1.5
   1.2
   1.3
   1.2
   1.1
   1.0
   1.1
   TCO2
   23
   24
   24
   Glucose
   123
   118
   164
   156
   170
   146
   Other labs: PT / PTT / INR:14.4/27.3/1.2, ALT / AST:13/24, Alk Phos / T
   Bili:38/1.1, Albumin:3.0 g/dL, LDH:314 IU/L, Ca++:8.1 mg/dL, Mg++:1.7
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69 year-old gentleman w/ HTN, DM, Afib and recently diagnosed small
   cell lung carcinoma, transferred from MICU for XRT.
   1. SCLC- s/p Y-stent for difficulty breathing, s/p transbronch bx.
   since + bx, no role for surgery.
   - plan for mapping & palliative XRT in AM while intubated.
   - f/u heme/onc and rad-onc recs
   - f/u final CT results for staging
   -SW c/s for coping w/ new dx once extubated
   2. PNA- His symptoms of fever and cough are likely due to a combination
   of community-acquired and post-obstructive PNA from SCLC.
   - will continue treat with Vanc, CTX and, Azithromycin
   - Add flagyl for anaerobic coverage given concern for post-obstructive
   PNA
   - continue PRN albuterol and atrovent inhalers
   - f/u sputum cx (endotracheal)
   - attempt to wean abx pending results of sputum cx (would d/c Vanc)
   - BCx, UCx, U/A in AM
   3. A-fib: anticoagulation held for procedure (y-stent) will check w/
   heme/onc and rad/onc if further procedures warranted, if not will need
   to restart anticoagulation.
   - Rhythm controlled w/ propafenone.
   - On diltiazem drip since yesterday for a-fib w/ [**Last Name (LF) 1427**], [**First Name3 (LF) **] continue for
   now.
   .
   4. Dysphagia: due to large posterior mediastinal mass completely
   compressing esophagus.
   - Aspiration precautions when diet restarted
   .
   5. Diabetes:
   - ISS, holding home Metformin
   .
   6. Gout:
   - Continue Allopurinol at renally adjusted dose
   .
   FEN: OGT for TF (boost glucose).
   PPX:
   -DVT ppx with systemic anticoagulation
   -Bowel regimen
   -Pain management with tylenol
   .
   ACCESS: PIVs x 2 (20G)
   .
   CODE STATUS: Confirmed full
   .
   EMERGENCY CONTACT: [**Name (NI) 10959**] [**Name (NI) 11003**], sister, HCP [**Telephone/Fax (1) 11004**]
   .  Neice: [**Doctor Last Name 1387**] [**Telephone/Fax (1) 11080**]
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-12-4**] 06:00 PM
   Multi Lumen - [**2140-12-5**] 01:15 AM
   Prophylaxis:
   DVT: heparin SC 5000u TID
   Stress ulcer:  pantoprazole 40mg IV q12h
   VAP:  abx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-12-08 09:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-12-6**] 08:18 AM
   Ceftriaxone - [**2140-12-6**] 09:33 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-12-7**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, Odonyphagia
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2140-12-8**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 105 (89 - 116) bpm
   BP: 96/58(65) {83/47(56) - 136/71(86)} mmHg
   RR: 20 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   CVP: 6 (0 - 337)mmHg
   Total In:
                                                                  1,383 mL
                                                                    196 mL
   PO:
   TF:
   IVF:
                                                                    488 mL
                                                                    196 mL
   Blood products:
                                                                    895 mL
   Total out:
                                                                  2,190 mL
                                                                    570 mL
   Urine:
                                                                  2,190 mL
                                                                    270 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -807 mL
                                                                   -374 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 484 (484 - 484) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   Compliance: 44 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/32/80.[**Numeric Identifier 176**]/23/0
   Ve: 11 L/min
   PaO2 / FiO2: 80
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   209 K/uL
   146 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   22 mg/dL
   105 mEq/L
   137 mEq/L
   28.4 %
   7.3 K/uL
        [image002.jpg]
                            [**2140-12-5**]  05:55 AM
                            [**2140-12-5**]  06:17 PM
                            [**2140-12-6**]  03:41 AM
                            [**2140-12-6**]  05:29 PM
                            [**2140-12-7**]  03:45 AM
                            [**2140-12-7**]  03:03 PM
                            [**2140-12-7**]  11:04 PM
                            [**2140-12-8**]  01:16 AM
                            [**2140-12-8**]  03:24 AM
                            [**2140-12-8**]  03:39 AM
   WBC
   12.8
   12.2
   12.6
   9.9
   7.3
   Hct
   29.3
   30.4
   32.6
   29.5
   28.4
   Plt
   187
   179
   275
   238
   209
   Cr
   1.5
   1.2
   1.3
   1.2
   1.1
   1.0
   1.1
   TCO2
   23
   24
   24
   Glucose
   123
   118
   164
   156
   170
   146
   Other labs: PT / PTT / INR:14.4/27.3/1.2, ALT / AST:13/24, Alk Phos / T
   Bili:38/1.1, Albumin:3.0 g/dL, LDH:314 IU/L, Ca++:8.1 mg/dL, Mg++:1.7
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69 yom recently diagnosed small cell lung carcinoma, now preparing for
   radiation therapy mapping and administration.
   RESPRIATORY FAILURE -- tracheal Y-stent placed by Interventional
   Pulmonology.  Continue mechanical ventilation.  Hope to be able to work
   towards extubation following initial session of XRT, if uncomplicated
   procedure.
   LUNG CA -- Large mediastinal mass.   Pathology consistent with small
   cell.  Scheduled for mapping and local XRT this AM.  Radiation Oncology
   and Medical Oncology services following.
   PNEUMONIA -- post-obstructive pneumonia.  Continue empirical
   antimicrobials (Cefepime, Azithromycin, Vanco).
   A-FIB -- experienced rapid ventricular response.  Controlled on
   propafenone, iv Diltiazem infusion.  Hold anticoagulation.
   NUTRITIONAL SUPPORT -- NPO pending evaluation for extubation.
   Underlying dysphagia attributed to mediastinal mass.
   DIABETES MELLITUS -- Monitor glucose, holding metformin.  Use insulin
   prn while NPO.  Maintain glucose <150.
   FLUIDS -- Euvolemic.  Monitor I/O.  Maintain balance.
   RENAL FUNCTION -- preserved, monitor BUN creatinine.  Monitor urine
   output.
   EMERGENCY CONTACT: [**Name (NI) 10959**] [**Name (NI) 11003**], sister, HCP [**Telephone/Fax (1) 11004**]
   [**Name2 (NI) **]e: [**Doctor Last Name 1387**] [**Telephone/Fax (1) 11080**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-12-4**] 06:00 PM
   Multi Lumen - [**2140-12-5**] 01:15 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2140-12-09 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - extubated post XRT
   - mucomyst and mucinex oredered post extubation per IP recs
   - NGT placed, but pulled out by patient
   - CTX was switched to zosyn for anaerobic coverage.
   S: Complains of slight
soreness
 in the chest. Dyspnea much improved.
   Continues to have productive cough, no fevers. + mild palpitations
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-12-8**] 08:00 AM
   Azithromycin - [**2140-12-8**] 08:00 AM
   Vancomycin - [**2140-12-8**] 11:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-12-9**] 02:00 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2140-12-8**] 12:05 PM
   Heparin Sodium (Prophylaxis) - [**2140-12-8**] 04:00 PM
   Pantoprazole (Protonix) - [**2140-12-8**] 08:14 PM
   Lorazepam (Ativan) - [**2140-12-9**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-9**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 122 (100 - 133) bpm
   BP: 127/67(76) {94/51(61) - 154/108(111)} mmHg
   RR: 32 (18 - 36) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 104.7 kg (admission): 102 kg
   Height: 72 Inch
             Total In:
                                                                  1,612 mL
                                                                    248 mL
   PO:
             TF:
   IVF:
                                                                  1,562 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    380 mL
   Urine:
                                                                    850 mL
                                                                    380 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    462 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: ///25/
   Ve: 10 L/min
   Physical Examination
   GENERAL: A+Ox3, NAD, pleasant
   CARDIAC: Irreg irreg rhythm, slightly rapid rate, no m/r/g
   LUNGS: Rhonchorous bilaterally, R > L. Good air movement.
   ABDOMEN: NABS. Soft, NT, ND.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.  WWP.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   238 K/uL
   10.5 g/dL
   136 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   21 mg/dL
   108 mEq/L
   143 mEq/L
   31.0 %
   9.4 K/uL
        [image002.jpg]
                            [**2140-12-5**]  06:17 PM
                            [**2140-12-6**]  03:41 AM
                            [**2140-12-6**]  05:29 PM
                            [**2140-12-7**]  03:45 AM
                            [**2140-12-7**]  03:03 PM
                            [**2140-12-7**]  11:04 PM
                            [**2140-12-8**]  01:16 AM
                            [**2140-12-8**]  03:24 AM
                            [**2140-12-8**]  03:39 AM
                            [**2140-12-9**]  04:27 AM
   WBC
   12.2
   12.6
   9.9
   7.3
   9.4
   Hct
   30.4
   32.6
   29.5
   28.4
   31.0
   Plt
   179
   275
   238
   209
   238
   Cr
   1.2
   1.3
   1.2
   1.1
   1.0
   1.1
   1.0
   TCO2
   23
   24
   24
   Glucose
   118
   164
   156
   170
   146
   136
   Other labs: PT / PTT / INR:13.2/28.9/1.1, ALT / AST:13/24, Alk Phos / T
   Bili:38/1.1, Differential-Neuts:80.2 %, Lymph:11.4 %, Mono:6.0 %,
   Eos:2.3 %, Albumin:3.0 g/dL, LDH:314 IU/L, Ca++:8.4 mg/dL, Mg++:1.7
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   69 year-old gentleman w/ HTN, DM, Afib and recently diagnosed small
   cell lung carcinoma, transferred from MICU for XRT.
   1. SCLC
 Large mediastinal mass. Dyspnea improved s/p Y-stent. Had
   first XRT yesterday. CT head and torso without apparent mets.
   - Cont XRT
   - f/u heme/onc and rad-onc recs
   - SW consulted for new dx/coping
   2. PNA
 Productive cough, fevers are concerning for a post-obstructive
   PNA from SCLC. Was broadened to pip-tazo from CTX yesterday.
   - Sputum sample sent this am
   - Continue Vanc, Pip-Tazo, Azithromycin
   - continue PRN albuterol and atrovent inhalers
   - f/u sputum cx (endotracheal)
   - attempt to wean abx pending results of sputum cx (would d/c Vanc)
   - BCx, UCx, U/A in AM
   3. A-fib: anticoagulation held for procedure (y-stent) will check w/
   heme/onc and rad/onc if further procedures warranted, if not will need
   to restart anticoagulation.
   - Rhythm controlled w/ propafenone.
   - On diltiazem drip since yesterday for a-fib w/ [**Last Name (LF) 1427**], [**First Name3 (LF) **] continue for
   now.
   .
   4. Dysphagia: due to large posterior mediastinal mass completely
   compressing esophagus.
   - Aspiration precautions when diet restarted
   .
   5. Diabetes:
   - ISS, holding home Metformin
   .
   6. Gout:
   - Continue Allopurinol at renally adjusted dose
   ICU Care
   Nutrition: NGT for TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-12-4**] 06:00 PM
   Multi Lumen - [**2140-12-5**] 01:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 10959**] [**Name (NI) 11003**], sister, HCP [**Telephone/Fax (1) 11004**];
   [**Name2 (NI) 843**]: [**Name (NI) 1387**] [**Telephone/Fax (1) 11080**]
   Code status: Full code
   Disposition:

2140-12-09 12:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress; atrial fibrillation.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated last PM.  Remains extubated.
   Hoarse voice.
   Up in chair this AM.
   Experiencing cough.
   Remains on Diltiazem drip for HR control.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-12-8**] 08:00 AM
   Azithromycin - [**2140-12-8**] 08:00 AM
   Vancomycin - [**2140-12-8**] 11:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-12-9**] 02:00 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2140-12-8**] 12:05 PM
   Heparin Sodium (Prophylaxis) - [**2140-12-8**] 04:00 PM
   Pantoprazole (Protonix) - [**2140-12-8**] 08:14 PM
   Lorazepam (Ativan) - [**2140-12-9**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2140-12-9**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 118 (100 - 133) bpm
   BP: 108/56(68) {94/49(61) - 154/108(111)} mmHg
   RR: 22 (18 - 36) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 104.7 kg (admission): 102 kg
   Height: 72 Inch
             Total In:
                                                                  1,612 mL
                                                                    379 mL
   PO:
             TF:
   IVF:
                                                                  1,562 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    640 mL
   Urine:
                                                                    850 mL
                                                                    640 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    462 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   238 K/uL
   136 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   21 mg/dL
   108 mEq/L
   143 mEq/L
   31.0 %
   9.4 K/uL
        [image002.jpg]
                            [**2140-12-5**]  06:17 PM
                            [**2140-12-6**]  03:41 AM
                            [**2140-12-6**]  05:29 PM
                            [**2140-12-7**]  03:45 AM
                            [**2140-12-7**]  03:03 PM
                            [**2140-12-7**]  11:04 PM
                            [**2140-12-8**]  01:16 AM
                            [**2140-12-8**]  03:24 AM
                            [**2140-12-8**]  03:39 AM
                            [**2140-12-9**]  04:27 AM
   WBC
   12.2
   12.6
   9.9
   7.3
   9.4
   Hct
   30.4
   32.6
   29.5
   28.4
   31.0
   Plt
   179
   275
   238
   209
   238
   Cr
   1.2
   1.3
   1.2
   1.1
   1.0
   1.1
   1.0
   TCO2
   23
   24
   24
   Glucose
   118
   164
   156
   170
   146
   136
   Other labs: PT / PTT / INR:13.2/28.9/1.1, ALT / AST:13/24, Alk Phos / T
   Bili:38/1.1, Differential-Neuts:80.2 %, Lymph:11.4 %, Mono:6.0 %,
   Eos:2.3 %, Albumin:3.0 g/dL, LDH:314 IU/L, Ca++:8.4 mg/dL, Mg++:1.7
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   69 yom recently diagnosed small cell lung carcinoma, now preparing for
   radiation therapy mapping and administration.
   RESPIRATORY FAILURE -- Stable, s/p extubation.  Tracheal Y-stent placed
   by Interventional Pulmonology.
   LUNG CA -- Large mediastinal mass.   Pathology consistent with small
   cell.  Continue XRT (planned total 14 sessions).  Radiation Oncology
   and Medical Oncology services following.
   PNEUMONIA -- post-obstructive pneumonia.  Continue empirical
   antimicrobials (Cefepime, Azithromycin, Vanco).
   A-FIB -- experienced rapid ventricular response.  Controlled on
   propafenone, iv Diltiazem infusion.  Hold anticoagulation.  Ttransition
   to PO meds.
   NUTRITIONAL SUPPORT -- NPO pending evaluation for extubation.
   Underlying dysphagia attributed to mediastinal mass.
   DIABETES MELLITUS -- Monitor glucose, holding metformin.  Use insulin
   prn while NPO.  Maintain glucose <150.
   FLUIDS -- Euvolemic.  Monitor I/O.  Maintain balance.
   RENAL FUNCTION -- preserved, monitor BUN creatinine.  Monitor urine
   output.
   EMERGENCY CONTACT: [**Name (NI) 10959**] [**Name (NI) 11003**], sister, HCP [**Telephone/Fax (1) 11004**]
   [**Name2 (NI) **]e: [**Doctor Last Name 1387**] [**Telephone/Fax (1) 11080**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-12-4**] 06:00 PM
   Multi Lumen - [**2140-12-5**] 01:15 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes